US05817700
Step 2: (E)-1-(Methylthio)-4-[2-(4-methylthiophenyl)ethenyl]benzene
Following the procedure as describe in method 1, but sustituting 4-methylthiobenzyltriphenylphosphonium chloride for benzyltriphenylphosphonium chloride, the desired residue was purified by flash chromatography (silica gel; hexane/EtOAc (90:10)) and recrystallisation from hexane.

reactant | 4-methylthiobenzyltriphenylphosphonium chloride | [Cl-].CSC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
catalyst | benzyltriphenylphosphonium chloride | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-1-(Methylthio)-4-[2-(4-methylthiophenyl)ethenyl]benzene | CSC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)SC | C16H16S2
